US08242280B2
To a solution of 3-(1,1-dioxothiomorpholin-4-yl)-3-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-propionic acid (100 mg, 0.15 mmol), dimethylamine (2 N solution in THF, 0.15 mL, 0.30 mmol), diisopropylethylamine (23 mg, 0.18 mmol) in DMF (1 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (68 mg, 0.18 mmol). The resulting solution was stirred at room temperature for 1 hour. Methanol (1 mL) and potassium hydroxide (50% w/v in water, 0.2 mL) were added and the resulting mixture was stirred for 30 minutes. The mixture was directly purified by mass-triggered reverse-phase HPLC to afford 3-(1,1-dioxothiomorpholin-4-yl)-3-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-propionamide as a white solid (31 mg, 39%). MS: m/z 533 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 2.75 (s, 3H), 2.82 (br, 2H), 2.88 (dd, 1H), 2.96 (br, 2H), 3.02 (s, 3H), 3.07 (br, 4H), 3.105 (dd, 1H), 3.83 (s, 3H), 4.41 (br, 1H), 7.05 (t, 1H), 7.15 (d, 1H), 7.30 (t, 1H), 7.30 (dt, 1H), 7.31 (d, 1H), 7.44 (t, 1H), 7.61 (d, 1H), 7.65 (s, 1H), 7.74 (d, 1H), 8.18 (d, 1H), 8.57 (d, 1H), 11.93 (s, 1H).

reactant | 3-(1,1-dioxothiomorpholin-4-yl)-3-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-propionic acid | 0.15 mmol, 100 mg | O=S1(CCN(CC1)C(CC(=O)O)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)=O | C34H33N3O7S2
reactant | dimethylamine | 0.30 mmol, 2 N, 0.15 mL | CNC | C2H7N
reactant | diisopropylethylamine | 0.18 mmol, 23 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.18 mmol, 68 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | potassium hydroxide | 0.2 mL | [OH-].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Methanol | 1 mL | CO | CH4O
product | 3-(1,1-dioxothiomorpholin-4-yl)-3-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-propionamide | 31 mg, 39% | O=S1(CCN(CC1)C(CC(=O)N(C)C)C1=CC(=CC=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)=O | C29H32N4O4S
